US09193693B2
Step 2. 2-Phenyl-3-(4-phenylpiperidin-1-yl)quinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 2-phenyl-3-(4-phenylpiperidin-1-yl)quinoxaline-6-carboxylate (92.9 mg, 0.22 mmol, 1.00 equiv) in methanol (15 mL), a solution of sodium hydroxide (44 mg, 1.10 mmol, 5.00 equiv) in water (1.5 mL). The resulting solution was stirred overnight at 50° C. in an oil bath. The pH value of the solution was adjusted to 3-4 with 1N hydrogen chloride. The resulting mixture was concentrated under vacuum. The resulting mixture was washed with methanol. This resulted in 85 mg (93%) of 2-phenyl-3-(4-phenylpiperidin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 2-phenyl-3-(4-phenylpiperidin-1-yl)quinoxaline-6-carboxylate | 0.22 mmol, 92.9 mg, 1.00 equiv | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCC(CC1)C1=CC=CC=C1)C(=O)OC | C27H25N3O2
reactant | sodium hydroxide | 1.10 mmol, 44 mg, 5.00 equiv | [OH-].[Na+]
reactant | hydrogen chloride | 1N | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 1.5 mL | O | H2O
product | 2-Phenyl-3-(4-phenylpiperidin-1-yl)quinoxaline-6-carboxylic acid | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCC(CC1)C1=CC=CC=C1)C(=O)O | C26H23N3O2
